US08034937B2
b) 1′-Benzyl-4-hydroxymethyl-2′,3′,5′,6′-tetrahydro-1′H-[3,4′]bipyridinyl-4′-ol
To a solution of 1.9 g (10 mmol) (3-bromo-pyridin-4-yl)-methanol in 50 ml dry tetrahydrofuran were added 11 ml (21 mmol) 2-propylmagnesium chloride solution (2.0 M in tetrahydrofuran). The reaction mixture was heated at reflux for 2 h. A solution of 1.9 g (10 mmol) 1-benzyl-4-piperidone in 5 ml tetrahydrofuran was added dropwise at a temperature of approximately 65° C. The reaction mixture was heated at reflux for 2 h and then quenched with water. The tetrahydrofuran was evaporated. The aqueous layer was basified to pH 10 with aqueous 2 M sodium hydroxide solution and extracted with three portions of tert-butyl methyl ether. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo. Flash-chromatography gave the title compound (0.47 g, 16%) as a brown solid.

reactant | (3-bromo-pyridin-4-yl)-methanol | 10 mmol, 1.9 g | BrC=1C=NC=CC1CO | C6H6BrNO
reactant | 2-propylmagnesium chloride | 21 mmol, 2.0 M, 11 ml | CC(C)[Mg]Cl
reactant | 1-benzyl-4-piperidone | 10 mmol, 1.9 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1′-Benzyl-4-hydroxymethyl-2′,3′,5′,6′-tetrahydro-1′H-[3,4′]bipyridinyl-4′-ol | 0.47 g, 16% | C(C1=CC=CC=C1)N1CCC(CC1)(C=1C=NC=CC1CO)O | C18H22N2O2
